US07247734B2
This compounds was synthesised in the same manner as described above. [4-(3-Cyano-propoxy)-phenyl]-acetic acid (0.5 g, 2.28 mmol), 4-chlororesorcinol (0.33 g, 2.28 mmol), boron trifloride etherate (5 ml). After standing for two hours a precipitate formed which was filtered, washed (water), and dried to give 4-{4-[2-(5-Chloro-2,4-dihydroxy-phenyl)-2-oxo-ethyl]-phenoxy}butyronitrile as a white solid (0.62 g, 78.7%); Rf 0.6 hexane/ethyl acetate (20/80).

reactant | [4-(3-Cyano-propoxy)-phenyl]-acetic acid | 2.28 mmol, 0.5 g | C(#N)CCCOC1=CC=C(C=C1)CC(=O)O | C12H13NO3
reactant | 4-chlororesorcinol | 2.28 mmol, 0.33 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | boron trifloride etherate | 5 ml | B(F)(F)F.CCOCC
product | 4-{4-[2-(5-Chloro-2,4-dihydroxy-phenyl)-2-oxo-ethyl]-phenoxy}butyronitrile | 0.62 g, 78.7% | ClC=1C(=CC(=C(C1)C(CC1=CC=C(OCCCC#N)C=C1)=O)O)O | C18H16ClNO4
